US05698553
from 6-(2-(3-benzylpiperidino)-1-oxoethyl)-2,3-dihydrobenzoxazol-2-one ("P"; obtainable by reaction of 2,3-dihydrobenzoxazol-2-one with chloroacetyl chloride to give 6-chloroacetyl-2,3-dihydrobenzoxazol-2-one ("Q"), then reaction with 3-benzylpiperidine):

reactant | 6-(2-(3-benzylpiperidino)-1-oxoethyl)-2,3-dihydrobenzoxazol-2-one | C(C1=CC=CC=C1)C1CN(CCC1)CC(=O)C1=CC2=C(NC(O2)=O)C=C1 | C21H22N2O3
reactant | 2,3-dihydrobenzoxazol-2-one | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 6-chloroacetyl-2,3-dihydrobenzoxazol-2-one | ClCC(=O)C1=CC2=C(NC(O2)=O)C=C1 | C9H6ClNO3
